US09169246B2
Step 14.2. 7-[2-(morpholin-4-ylcarbonyl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with 7-[2-(morpholin-4-ylcarbonyl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-[2-(morpholin-4-ylcarbonyl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one, in the form of a white powder (hydrochloride, 0.7 H2O; yield 78%).

reactant | 7-[2-(morpholin-4-ylcarbonyl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1(CCOCC1)C(=O)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C27H26F3N5O4
reactant | 7-[2-(morpholin-4-ylcarbonyl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1(CCOCC1)C(=O)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C27H28F3N5O4
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | 7-[2-(morpholin-4-ylcarbonyl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 78% | Cl.N1(CCOCC1)C(=O)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C22H18F3N5O3.ClH/c23-22(24,25)12-30-17-10-13(3-4-15(17)18-16(20(30)31)11-27-28-18)14-2-1-5-26-19(14)21(32)29-6-8-33-9-7-29;/h1-5,10-11H,6-9,12H2,(H,27,28);1H
